US05166340
Under argon, a reaction vessel fitted with a stirrer was charged with 100 ml diethylether and 11.7 g. t-butyltrichlorosilane (0.0615 mol) and stirring was commenced. To this vessel was added dropwise 6.34 g 1-lithio-4-methylpiperidine in diethylether solution from (b) above via a cannula over a 30 min. period and stirring was continued for about 16 hours. The vessel was fitted with a condenser and the reaction mixture was refluxed for 1 hr. and cooled to room temperature. The solution was filtered through a medium porosity frit and the LiCl precipitate was washed three times with 20 ml portions of diethylether. The diethylether was removed from the filtrate in vacuo to provide a clear yellow oil. The crude product was distilled under vacuum (60°-68° C., @ 0.7 torr) to give a clear to slightly cloudy oil of 6.45 g of t-butyl(4methylpiperidyl)dichlorosilane.

reactant | t-butyltrichlorosilane | 0.0615 mol | C(C)(C)(C)[Si](Cl)(Cl)Cl | C4H9Cl3Si
reactant | 1-lithio-4-methylpiperidine | 6.34 g | [Li]N1CCC(CC1)C
solvent | diethylether | C(C)OCC | C4H10O
solvent | diethylether | 100 ml | C(C)OCC | C4H10O
product | t-butyl(4methylpiperidyl)dichlorosilane | 6.45 g | C(C)(C)(C)[Si](Cl)(Cl)N1CCC(CC1)C | C10H21Cl2NSi
